US08497271B2
Part H. (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic acid [(R)-2-hydroxy-1-(3-methoxy-4′-methyl-biphenyl-4-yl)-ethyl]-amide
A mixture of trifluoro-methanesulfonic acid 4-{(R)-2-hydroxy-1-[((1S,2S)-2-thiophen-2-yl-cyclopropanecarbonyl)amino]-ethyl}-3-methoxy-phenyl ester (66 mg, 0.142 mmol), tolylboronic acid (38.1 mg, 0.284 mmol), Pd(PPh3)4 (16.4 mg, 0.014 mmol) and Na2CO3 (45.2 mg, 0.426 mmol) in DME/H2O (1.2/0.4 mL) was heated at 80° C. for 3 h. The reaction mixture was passed through a short silica pad (EtOAc) and concentrated. The residue was subjected to preparative HPLC to give the titled compound (12.3 mg). 1H NMR (400 MHz, MeOD) δ ppm 7.7 (d, J=8.3 Hz, 2H), 7.6 (d, J=8.3 Hz, 1H), 7.5 (d, J=7.8 Hz, 2H), 7.4 (t, J=5.4 Hz, 2H), 7.1-7.2 (m, 1H), 7.1 (d, J=3.5 Hz, 1H), 5.6 (dd, J=7.8, 4.5 Hz, 1H), 4.8 (s, 1H), 4.2 (s, 3H), 4.0 (dd, J=11.1, 4.5 Hz, 1H), 3.9 (dd, J=11.4, 7.8 Hz, 1H), 2.8 (dd, J=6.3, 2.5 Hz, 1H), 2.6 (s, 3H), 2.3 (dd, J=8.0, 4.7 Hz, 1H), 1.8 (ddd, J=9.2, 4.8, 4.7 Hz, 1H), 1.5 (ddd, 1H). LRMS (ESI)=408, [(M+1)+ calcd for C24H26NO3S 407.5].

reactant | trifluoro-methanesulfonic acid 4-{(R)-2-hydroxy-1-[((1S,2S)-2-thiophen-2-yl-cyclopropanecarbonyl)amino]-ethyl}-3-methoxy-phenyl ester | 0.142 mmol, 66 mg | OC[C@H](NC(=O)[C@@H]1[C@H](C1)C=1SC=CC1)C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)OC | C18H18F3NO6S2
reactant | tolylboronic acid | 0.284 mmol, 38.1 mg | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | Na2CO3 | 0.426 mmol, 45.2 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DME H2O | 0.4 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 0.014 mmol, 16.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic acid [(R)-2-hydroxy-1-(3-methoxy-4′-methyl-biphenyl-4-yl)-ethyl]-amide | 12.3 mg | OC[C@@H](C1=C(C=C(C=C1)C1=CC=C(C=C1)C)OC)NC(=O)[C@@H]1[C@H](C1)C=1SC=CC1 | C24H25NO3S
